US06489321B1
2-(2-Hydroxyethyl)-5-(4-(2-methylbenzoylamino)benzyl)-1,5-benzothiazepine-4-one (Compound 22)
2-(2-Hydroxyethyl)-5-(4-aminobenzyl)-1,5-benzothiazepine-4-one as prepared in Example 21 (0.105 g, 0.31 mM) was treated using the procedure described in Example 22, with o-toluoyl chloride (0.04 ml, 0.33 mM) substituted for 2-phenylbenzoyl chloride, to yield the title product as a white solid (0.086 g, 64%) m/z (MH+) 447

reactant | 2-(2-Hydroxyethyl)-5-(4-aminobenzyl)-1,5-benzothiazepine-4-one | OCCC=1SC2=C(N(C(C1)=O)CC1=CC=C(C=C1)N)C=CC=C2 | C18H18N2O2S
reactant | o-toluoyl chloride | 0.33 mM, 0.04 ml | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
reactant | 2-phenylbenzoyl chloride | C1(=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO
product | 2-(2-Hydroxyethyl)-5-(4-(2-methylbenzoylamino)benzyl)-1,5-benzothiazepine-4-one | 0.086 g, 64% | OCCC=1SC2=C(N(C(C1)=O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C=CC=C2 | C26H24N2O3S
